US09029539B2
a) 1,1-Bis(6-bromo-2-pyridyl)ethan-1-ol
113 ml (340 mmol) of a 3M methylmagnesium chloride solution in THF were added dropwise with vigorous stirring to a suspension, cooled to −78° C., of 102.6 g (300 mmol) of di(6-bromo-2-pyridyl)ketone in 1000 ml of THF at such a rate that a temperature of −60° C. was not exceeded. When the addition was complete, the mixture was stirred for a further 30 min., then 50 ml of ethanol were added dropwise, the mixture was warmed to 0° C., and 60 ml of semi-saturated ammonium chloride solution were added. The reaction mixture was filtered, the salts were washed twice with 100 ml of THF each time, and the filtrate was evaporated to dryness in a rotary evaporator. The oily residue was taken up in 1000 ml of dichloromethane, and the organic phase was washed three times with 300 ml of water and dried over magnesium sulfate. Stripping off of the dichloromethane left 106.0 g (296 mmol), corresponding to a yield of 98.6%, of the crude product having a purity of about 95% according to 1H-NMR as a yellow-brown oil, which was reacted further without purification.

reactant | methylmagnesium chloride | 3M | C[Mg]Cl
reactant | di(6-bromo-2-pyridyl)ketone | 300 mmol, 102.6 g | BrC1=CC=CC(=N1)C(=O)C1=NC(=CC=C1)Br | C11H6Br2N2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
product | 1,1-Bis(6-bromo-2-pyridyl)ethan-1-ol | yield of 98.6% | BrC1=CC=CC(=N1)C(C)(O)C1=NC(=CC=C1)Br | C12H10Br2N2O
